US05504244
Glutaric anhydride (10 g; 0.1mole) is reacted with pentylbenzene (100 ml) and aluminum chloride (29 g; 0.22 mole) at room temperature for 4 hours. The reaction mixture is poured into a mixture of ice-water (500 ml) and concentrated hydrochloric acid (50 ml) with vigorous stirring. The crude product is collected by filtration and recrystallized from aqueous ethanol to give 4-(4-n-pentylbenzoyl)butanoic acid (16.2 g) as colorless crystals, m.p. 104°-106° C.

reactant | Glutaric anhydride | 0.1mole, 10 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | pentylbenzene | 100 ml | C(CCCC)C1=CC=CC=C1 | C11H16
reactant | aluminum chloride | 0.22 mole, 29 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 4-(4-n-pentylbenzoyl)butanoic acid | 16.2 g | C(CCCC)C1=CC=C(C(=O)CCCC(=O)O)C=C1 | C16H22O3
